US09422279B2
To a solution of 1-(3-(chloromethyl)-4-phenyl-5,6-dihydropyridin-1(2H)-yl)ethanone (100 mg, 0.40 mmol) and 2,6-dihydroxybenzaldehyde (110 mg, 0.80 mmol) in DMF (2.5 mL) was added K2CO3 (170 mg, 1.20 mmol), after heated at 50 degree for 2 h, the reaction was diluted with EtOAc, organic layer was separated and aqueous layer was extracted with EtOAc. EtOAc layers were combined, washed with Sat. NaHCO3, brine, dried over Na2SO4, and was concentrated to give crude oil, which was purified by preparative HPLC (eluted with ACN/H2O) to give 2-((1-acetyl-4-phenyl-1,2,5,6-tetrahydropyridin-3-yl)methoxy)-6-hydroxybenzaldehyde (26 mg). 1H NMR (400 MHz, CDCl3, NMR shows rotamers exist, only one set of signal was reported) δ (ppm) 11.97 (s, 1H), 10.34 (s, 1H), 7.34 (m, 4H), 7.17 (m, 2H), 6.49 (d, J=8.0 Hz, 1H), 6.11 (d, J=8.8 Hz, 1H), 4.48 (s, 2H), 4.33 (s, 2H), 3.69 (t, J=6.0 Hz, 2H), 2.55 (m, 2H), 2.18 (s, 3H); MS (ESI) m/z 352.3 [M+H]+.

reactant | 1-(3-(chloromethyl)-4-phenyl-5,6-dihydropyridin-1(2H)-yl)ethanone | 0.40 mmol, 100 mg | ClCC=1CN(CCC1C1=CC=CC=C1)C(C)=O | C14H16ClNO
reactant | 2,6-dihydroxybenzaldehyde | 0.80 mmol, 110 mg | OC1=C(C=O)C(=CC=C1)O | C7H6O3
reactant | K2CO3 | 1.20 mmol, 170 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-((1-acetyl-4-phenyl-1,2,5,6-tetrahydropyridin-3-yl)methoxy)-6-hydroxybenzaldehyde | 26 mg | C(C)(=O)N1CC(=C(CC1)C1=CC=CC=C1)COC1=C(C=O)C(=CC=C1)O | C21H21NO4
